US06858651B2
A solution of 69 mg (0.146 mmol) of trans-N-[4-(3-Bromo-propoxymethyl)-cyclohexyl]-N-methyl-4-trifluoromethyl-benzenesulfonamide in 0.8 ml DMA was treated at 0° C. with 0.028 ml (0.29 mmol) of N-allylmethylamine and stirred at RT for 22 h. The solution was cooled (0° C.) and treated again with 0.028 ml (0.29 mmol) of N-allylmethylamine. After 6 h at RT, the solution was concentrated and dissolved in aqueous saturated NaHCO3/Et2O (3×). The organic phase was dried over Na2SO4 and evaporated. Flash column chromatography on silica gel with CH2Cl2/MeOH (95:5) yielded 43 mg (64%) of trans-N-{4-[3-(Allyl-methyl-amino)-propoxymethyl]-cyclohexyl}-N-methyl-4-trifluoromethyl-benzenesulfonamide, MS: 463 (MH+).

reactant | trans-N-[4-(3-Bromo-propoxymethyl)-cyclohexyl]-N-methyl-4-trifluoromethyl-benzenesulfonamide | 0.146 mmol, 69 mg | BrCCCOC[C@@H]1CC[C@H](CC1)N(S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)C | C18H25BrF3NO3S
reactant | N-allylmethylamine | 0.29 mmol, 0.028 ml | C(C=C)CN | C4H9N
reactant | N-allylmethylamine | 0.29 mmol, 0.028 ml | C(C=C)CN | C4H9N
reactant | DMA | 0.8 ml | CC(=O)N(C)C | C4H9NO
product | trans-N-{4-[3-(Allyl-methyl-amino)-propoxymethyl]-cyclohexyl}-N-methyl-4-trifluoromethyl-benzenesulfonamide | 43 mg, 64% | C(C=C)N(CCCOC[C@@H]1CC[C@H](CC1)N(S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)C)C | C22H33F3N2O3S
